US09126906B2
A mixture of 1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethanone (1.2 g, 4.4 mmol), RuCl(p-cymene)[(S,S)-Ts-DPEN] (28 mg, 0.044 mmol), and 5:2 formic acid-triethylamine complex (2.2 mL) in acetonitrile (7.2 mL) was stirred at 20-25° C. for 40 h. The mixture was evaporated to dryness and the residue was chromatographed on a silica gel column, using a hexanes-ethyl acetate gradient. The appropriate fractions were pooled and evaporated. The residue was triturated with heptane (25 mL) and the resulting slurry was filtered and dried under vacuum to provide (R)-1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethanol as a white solid (1.05 g, 87% yield); achiral HPLC (Hypersil BDS C8, 5.0 μm, 250×4.6 mm, 1.5 mL/min, 278 nm, 90/10 gradient to 80/20 0.1% aqueous TFA/MeOH over 10 min then gradient to 10/90 0.1% aqueous TFA/MeOH over the next 15 min): 12.37 (99.8%); chiral HPLC (Chiralpak AD-H 5.0 μm Daicel, 250×4.6 mm, 1.0 mL/min, 280 nm, 85:15 heptane-i-PrOH): 18.07 (0.51%), 20.43 (99.4%); 1H NMR(CHCl3-d) δ 1.48 (t, J=7.0 Hz, 3H), 2.77 (dd, J=1.1, 2.6 Hz, 1H), 3.05 (s, 3H), 3.17 (dd, J=0.9, 14.7 Hz, 1H), 3.46 (dd, J=10.1, 14.6 Hz, 1H), 3.88 (s, 3H), 4.11 (q, J=7.0 Hz, 2H), 5.27-5.32 (m, 1H), 6.82-6.95 (m, 3H).

reactant | 1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethanone | 4.4 mmol, 1.2 g | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)=O | C12H16O5S
solvent | acetonitrile | 7.2 mL | C(C)#N | C2H3N
catalyst | RuCl(p-cymene)[(S,S)-Ts-DPEN] | 0.044 mmol, 28 mg | CC1=CC=C(C=C1)C(C)C.CC1=CC=C(C=C1)S(=O)(=O)[N-][C@@H](C2=CC=CC=C2)[C@H](C3=CC=CC=C3)N.Cl[Ru+]
product | (R)-1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethanol | 1.05 g, 87% yield | C(C)OC=1C=C(C=CC1OC)[C@H](CS(=O)(=O)C)O | C12H18O5S
